US04223142
(b) 2-Chloro-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester
200 g of 5-cyano-2-hydroxy-6-methyl-3-pyridine-carboxylic acid, ethyl ester (1 mol) are refluxed with stirring in 750 ml of phosphorous oxychloride for 5 hours. The excess of phosphorous oxychloride is removed in vacuo and the residue poured in 1 kg of ice. 2-chloro-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester crystallizes and is filtered off. Yield 170 g (76%); m.p. 43°-45° C. (petrol ether).

reactant | 5-cyano-2-hydroxy-6-methyl-3-pyridine-carboxylic acid, ethyl ester | 1 mol, 200 g | C(#N)C=1C=C(C(=NC1C)O)C(=O)OCC | C10H10N2O3
reactant | phosphorous oxychloride | 750 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-cyano-6-methyl-3-pyridine-carboxylic acid, ethyl ester | ClC1=NC(=C(C=C1C(=O)OCC)C#N)C | C10H9ClN2O2
